US09388195B2
B) Production of tert-butyl(3S)-3-[6-(5-methyl-1H-pyrazol-4-yl)-4-oxo-3,4-dihydrothieno[3,2-d]pyrimidin-2-yl]-2-azabicyclo[2.2.2]octane-2-carboxylate
tert-Butyl(3S)-3-(6-Bromo-4-oxo-3,4-dihydrothieno[3,2-d]pyrimidin-2-yl)-2-azabicyclo[2.2.2]octane-2-carboxylate (190 mg), tert-butyl 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate (266 mg), sodium carbonate (78 mg), 1,2-dimethoxyethane (3.0 mL) and water (1.5 mL) were placed in a flask, and the atmosphere in the flask was purged with argon. [1,1′-Bis(diphenylphosphino)ferrocene]palladium(II) dichloride-dichloromethane complex (1:1) (35 mg) was added, and the atmosphere in the flask was purged again with argon. The reaction system was stirred at 100° C. for 3 hr, and the mixture was extracted with ethyl acetate and dried over anhydrous sodium sulfate. Insoluble material was removed by filtration, and the extract was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane), and the obtained pale-yellow solid was crystallized from methanol/ethyl acetate to give the title compound (146 mg) as a pale-yellow solid.

reactant | tert-Butyl(3S)-3-(6-Bromo-4-oxo-3,4-dihydrothieno[3,2-d]pyrimidin-2-yl)-2-azabicyclo[2.2.2]octane-2-carboxylate | 190 mg | BrC1=CC=2N=C(NC(C2S1)=O)[C@H]1N(C2CCC1CC2)C(=O)OC(C)(C)C | C18H22BrN3O3S
reactant | tert-butyl 3-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole-1-carboxylate | 266 mg | CC1=NN(C=C1B1OC(C(O1)(C)C)(C)C)C(=O)OC(C)(C)C | C15H25BN2O4
reactant | sodium carbonate | 78 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 3.0 mL | COCCOC | C4H10O2
solvent | water | 1.5 mL | O | H2O
product | tert-butyl(3S)-3-[6-(5-methyl-1H-pyrazol-4-yl)-4-oxo-3,4-dihydrothieno[3,2-d]pyrimidin-2-yl]-2-azabicyclo[2.2.2]octane-2-carboxylate | 146 mg | CC1=C(C=NN1)C1=CC=2N=C(NC(C2S1)=O)[C@H]1N(C2CCC1CC2)C(=O)OC(C)(C)C | C22H27N5O3S
